US06921763B2
To a mixture of tert-butyl 3-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate (0.28 g, 0.00051 mol) in acetone (10 mL) was added an 6N aqueous solution of hydrogen chloride (3 mL) at room temperature. The mixture was stirred at 45° C. for 1 hour. The solvent was removed, and the mixture was basified with an aqueous 5N sodium hydroxide solution. The aqueous layer was extracted with dichloromethane (3×80 mL). The solvent was removed under reduced pressure, and the residue was purified by RP-HPLC (Hypersilprep HS C18, 8 μm, 250×21.1 mm; 5%-100% over 20 min with 0.1 M ammonium acetate, 21 mL/min) to yield N2-{4-[4-amino-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}-5,7-dimethyl-1,3-benzoxazol-2-amine acetate (0.06 g, 0.00012 mol). 1H NMR (DMSO-d6, 400 MHz) δ 10.85 (s, 1H), 8.22 (s, 1H), 7.95 (d, 2H), 7.65 (d, 2H), 7.05 (s, 1H), 6.80 (s, 1H), 4.75 (br, 1H), 3.15 (br, 2H), 2.95 (m, 2H), 2.40 (s, 3H), 2.35 (s, 3H), 2.05 (br, 1H), 2.00 (br, 11), 1.90 (s, 3H), 1.80 (br, 1H), 1.60 (br, 1H). RP-HPLC (Delta Pak C18, 5 μm, 300 A, 15 cm; 5%-95% acetonitrile-0.1M ammonium acetate over 10 min, 1 mL/min) Rt 9.4 min. MS: MH+ 455

reactant | tert-butyl 3-(4-amino-3-{4-[(5,7-dimethyl-1,3-benzoxazol-2-yl)amino]phenyl}-1H-pyrazolo[3,4-d]pyrimidin-1-yl)-1-piperidinecarboxylate | 0.00051 mol, 0.28 g | NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CN(CCC1)C(=O)OC(C)(C)C | C30H34N8O3
reactant | hydrogen chloride | 3 mL | Cl | ClH
reactant | acetone | 10 mL | CC(=O)C | C3H6O
product | N2-{4-[4-amino-1-(3-piperidyl)-1H-pyrazolo[3,4-d]pyrimidin-3-yl]phenyl}-5,7-dimethyl-1,3-benzoxazol-2-amine acetate | 0.00012 mol, 0.06 g | C(C)(=O)O.NC1=C2C(=NC=N1)N(N=C2C2=CC=C(C=C2)NC=2OC1=C(N2)C=C(C=C1C)C)C1CNCCC1 | InChI=1S/C25H26N8O.C2H4O2/c1-14-10-15(2)22-19(11-14)31-25(34-22)30-17-7-5-16(6-8-17)21-20-23(26)28-13-29-24(20)33(32-21)18-4-3-9-27-12-18;1-2(3)4/h5-8,10-11,13,18,27H,3-4,9,12H2,1-2H3,(H,30,31)(H2,26,28,29);1H3,(H,3,4)
